US07241791B2
Step 2: (3-chloro-2-fluorophenyl)-(4-methoxyphenyl)-methanone
Prepared according to Method A step B from 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide (2.5 g, 11.5 mmol) and 4-methoxyphenylmagnesium bromide (25 mL, 0.5 M in THF) to give 0.3 g of the title compound as a white solid.

reactant | 3-chloro-2-fluoro-N-methoxy-N-methylbenzamide | 11.5 mmol, 2.5 g | ClC=1C(=C(C(=O)N(C)OC)C=CC1)F | C9H9ClFNO2
reactant | 4-methoxyphenylmagnesium bromide | 0.5 M, 25 mL | COC1=CC=C(C=C1)[Mg]Br
product | (3-chloro-2-fluorophenyl)-(4-methoxyphenyl)-methanone | 0.3 g | ClC=1C(=C(C=CC1)C(=O)C1=CC=C(C=C1)OC)F | C14H10ClFO2
